US07247734B2
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (0.48 g, 3.31 mmol), [3,4-Bis-(3-cyano-propoxy)-phenyl]-acetic acid (1 g, 3.31 mmol), BF3Et2O (8 ml), PCl5 (1.03 g, 4.97 mmol), DMF (8 ml and 12 ml). The precipitate formed was filtered and re-crystallized from methanol to give 4-[4-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-2-(3-cyano-propoxy)-phenoxy]-butyronitrile as a white solid (1.05 g, 72.5%); Rf 0.6 ethyl acetate/hexane (80/20)].

reactant | 4-Chlororesorcinol | 3.31 mmol, 0.48 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | [3,4-Bis-(3-cyano-propoxy)-phenyl]-acetic acid | 3.31 mmol, 1 g | C(#N)CCCOC=1C=C(C=CC1OCCCC#N)CC(=O)O | C16H18N2O4
reactant | PCl5 | 4.97 mmol, 1.03 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-[4-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-2-(3-cyano-propoxy)-phenoxy]-butyronitrile | 1.05 g, 72.5% | ClC=1C=C2C(C(=COC2=CC1O)C1=CC(=C(OCCCC#N)C=C1)OCCCC#N)=O | C23H19ClN2O5
